M5 (VOUT2 net30 net22 VSS) nmos4
M4 (VOUT1 net11 net14 VSS) nmos4
M3 (net22 net31 net21 VSS) nmos4
M2 (net14 net10 net13 VSS) nmos4
M1 (net21 VIN2 VSS VSS) nmos4
M0 (net13 VIN1 VSS VSS) nmos4
R7 (VOUT2 net33) resistor
R6 (VOUT1 net34) resistor
R5 (VB3 net30) resistor
R4 (VB2 net31) resistor
? Missing component
R2 (net10 VB2) resistor
R1 (VB1 VIN2) resistor
R0 (VIN1 VB1) resistor
C11 (net11 VOUT2) capacitor
C10 (net30 VOUT1) capacitor
C9 (net33 VIN2) capacitor
C8 (net34 VIN1) capacitor
C7 (net10 net22) capacitor
C6 (net31 net14) capacitor
C5 (VIN1 net21) capacitor
C4 (VIN2 net13) capacitor
C3 (net31 VSS) capacitor
C2 (net30 VSS) capacitor
C1 (net11 VSS) capacitor
C0 (net10 VSS) capacitor
